US06645990B2
To a solution of 1-acetyl-1H-indazole-5-carbonitrile (1.1 g, 6 mmol), Et3N (2.5 mL, 17.8 mmol) and THF (20 mL) was bubbled in H2S gas over 10 min. Stirred at 0° C. for 24 h. Concentrated in vacuo to give a yellow solid which was triturated with CH2Cl2 and filtered insoluble solid to give 1-acetyl-1H-indazole-5-carbothioic acid amide as a yellow solid. MS m/z: 220.0 (M+H). Calc'd for CloH9N3OS 219.26.

reactant | 1-acetyl-1H-indazole-5-carbonitrile | 6 mmol, 1.1 g | C(C)(=O)N1N=CC2=CC(=CC=C12)C#N | C10H7N3O
reactant | Et3N | 17.8 mmol, 2.5 mL | CCN(CC)CC | C6H15N
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | H2S | S | H2S
product | 1-acetyl-1H-indazole-5-carbothioic acid amide | C(C)(=O)N1N=CC2=CC(=CC=C12)C(N)=S | C10H9N3OS
